US04206120
1-(4-Methylthio-2-oxoazetidin-1yl)-pentan-2,4-dione
4-Methylthioazetidin-2-one (6.66 g., 57 mmole) and 1-bromopentan-2,4-dione (11.25 g., 63 mmole) were converted into the title compound using the process described in Example 1.1. The title compound was obtained as a colourless gum (3.13 g., 25% yield). νmax (CHCl3): 3400 (br.) (enol OH), 1760 (β-lactam C=O), 1720 (sh.) (ketone C=O), 1630 (sh.) and 1605 (enolic β-diketone C=O) cm-1. δ(CDCl3): 2.03 (s, 6H, COCH3 and SCH3), 2.97 (dd, J 16, J' 2 Hz, 1H, β-lactam CHH), 3.41 (dd, J 16, J' 5 Hz, 1H, β-lactam CHH), 3.60 (s, 0.4H, COCH2CO), 3.65 (d, J 17 Hz, 1H, NCHH), 4.18 (d, J 17 Hz, 1H, NCHH), 4.78 (dd, J 5, J' 2 Hz, 1H, β-lactam CH), 5.68 (s, 0.8H, olefinic H for enol), ca 14(v.broad, 0.8H, enolOH).

reactant | 4-Methylthioazetidin-2-one | 57 mmole, 6.66 g | CSC1CC(N1)=O | C4H7NOS
reactant | 1-bromopentan-2,4-dione | 63 mmole, 11.25 g | BrCC(CC(C)=O)=O | C5H7BrO2
product | 1-(4-Methylthio-2-oxoazetidin-1yl)-pentan-2,4-dione | CSC1CC(N1CC(CC(C)=O)=O)=O | C9H13NO3S
